US08236963B2
Intermediate 52: [5-Chloro-1,3-bis(ethoxycarbonyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid, (cf. Scheme 1c, compound XXVIII)
To a solution of diethyl-3-(2-tert-butoxy-2-oxoethyl)-5-chloro-2-oxoindoline-1,3-dicarboxylate, intermediate 51, (1.83 g, 4.30 mmol) in dichloromethane (30 ml) trifluoroacetic acid (3.18 ml, 42.97 mmol) was added at 0-5° C. Stirring was continued at 0-5° C. for 30 minutes and at ambient temperature overnight. Evaporation and drying under high vacuum gave the title compound (1.57 g, 99%) as colorless oil (HPLC purity: 85%). MS (ESI+): 370.2

reactant | diethyl-3-(2-tert-butoxy-2-oxoethyl)-5-chloro-2-oxoindoline-1,3-dicarboxylate | C(C)OC(=O)N1C(C(C2=CC(=CC=C12)Cl)(C(=O)OCC)CC(=O)OC(C)(C)C)=O | C20H24ClNO7
reactant | dichloromethane | 42.97 mmol, 30 ml | ClCCl | CH2Cl2
product | [5-Chloro-1,3-bis(ethoxycarbonyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetic acid | 1.57 g, 99% | ClC=1C=C2C(C(N(C2=CC1)C(=O)OCC)=O)(C(=O)OCC)CC(=O)O | C16H16ClNO7
